US05356906
To a solution of 20.0 g (95 mmoles) of N-(2-phenylethyldiethanolamine in 40 mL of chloroform was added, over a period of 1 hour, 20 mL of thionyl chloride in 20 mL of chloroform. The mixture was heated under reflux for 2 hours and concentrated to give N-(2-phenylethyl)-N,N-bis(2-chloroethyl)amine hydrochloride as an oil. NMR (CDCl3) δ7.2-7.4 (m, 5H); 4.1 (t, 4H); 3.6 (t, 4H); 3.5 (m, 2H) and 3.2 (m, 2H).

reactant | 2-phenylethyldiethanolamine | C1(=CC=CC=C1)CCN(CCO)CCO | C12H19NO2
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(2-phenylethyl)-N,N-bis(2-chloroethyl)amine hydrochloride | Cl.C1(=CC=CC=C1)CCN(CCCl)CCCl | InChI=1S/C12H17Cl2N.ClH/c13-7-10-15(11-8-14)9-6-12-4-2-1-3-5-12;/h1-5H,6-11H2;1H
